US09216943B2
Preparation of 4-octylphenethyl methanesulfonate
2-(4-Octylphenyl)ethanol (53 g) and dichloromethane (500 mL) are charged into a 1 liter three-neck round bottom flask equipped with guard tube and addition funnel. Triethylamine (83.5 g) is added, the mixture is stirred for 30 minutes, then it is cooled to 0° C. Methanesulphonyl chloride (35.2 mL) is added drop-wise at 0° C. and the mass is stirred for 3 hours at room temperature. The mass is diluted with water (700 mL) and the organic layer is separated and the aqueous layer is extracted with dichloromethane (2×250 mL). The combined organic layers is washed with saturated sodium bicarbonate (500 mL) and brine solution (500 mL). The organic layer is separated, dried with sodium sulphate, and concentrated under vacuum to obtain the title compound. Yield: 70 g.

reactant | 2-(4-Octylphenyl)ethanol | 53 g | C(CCCCCCC)C1=CC=C(C=C1)CCO | C16H26O
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
reactant | Triethylamine | 83.5 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | 35.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 700 mL | O | H2O
product | 4-octylphenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)CCCCCCCC | C17H28O3S
